US08633200B2
To a stirred suspension of ethyl 2-(7-chloro-2-(3-chlorophenyl)-3,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate (3.45 g, 8.80 mmol) in anhydrous toluene (200 ml) was added 1.1 M (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole in toluene (3.20 ml, 3.52 mmol). The mixture was cooled (−40° C., dry ice/acetonitrile) and a solution of 1.0 M catecholborane in THF (17.59 ml, 17.59 mmol) was added over 1 min. The mixture was maintained at −40° C. for 2 hrs, and then warmed to room temperature with stirring for 16 hrs. The reaction was diluted with EtOAc (600 mL) and sat. Na2CO3 (200 mL). The mixture was stirred vigorously for 30 min, the layers were separated, and the organic layer washed with sat Na2CO3 (5×100 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure. The crude product was purified by flash silica gel column chromatography, eluting with 10%-30% EtOAc in hexanes, affording the product, (S)-ethyl 2-(7-chloro-2-(3-chlorophenyl)-3,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate (3.08 g, 7.81 mmol, 84% yield) as a white solid. 1H NMR (500 MHz, CDCl3) δ: 7.85-7.79 (m, 1H), 7.69 (dt, J=7.1, 1.6 Hz, 1H), 7.40-7.32 (m, 2H), 5.71 (s, 1H), 4.26 (q, J=7.1 Hz, 2H), 4.02 (br. s., 1H), 2.60 (s, 3H), 2.47 (s, 3H), 1.21 (t, J=7.2 Hz, 3H). LCMS (M+H)=394.2. Chiral column analysis indicated 98.1% chiral purity (ee: 96.2%).

reactant | ethyl 2-(7-chloro-2-(3-chlorophenyl)-3,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate | 8.80 mmol, 3.45 g | ClC1=C(C(=NC=2N1N=C(C2C)C2=CC(=CC=C2)Cl)C)C(C(=O)OCC)=O | C18H15Cl2N3O3
reactant | (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole | 1.1 M | CB1OC([C@@H]2N1CCC2)(C2=CC=CC=C2)C2=CC=CC=C2 | C18H20BNO
reactant | dry ice acetonitrile | C(=O)=O.C(C)#N
reactant | catecholborane | 1.0 M | [B]1OC2=CC=CC=C2O1 | C6H4BO2
reactant | THF | 17.59 mmol, 17.59 ml | C1CCOC1 | C4H8O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 600 mL | CCOC(=O)C | C4H8O2
solvent | Na2CO3 | 200 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 3.52 mmol, 3.20 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-ethyl 2-(7-chloro-2-(3-chlorophenyl)-3,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate | 7.81 mmol, 3.08 g, 84% yield | ClC1=C(C(=NC=2N1N=C(C2C)C2=CC(=CC=C2)Cl)C)[C@@H](C(=O)OCC)O | C18H17Cl2N3O3
